US04968678
To a 1 l. round bottom flask was added 45.5 g (0.21 mol) of 4-hydroxy-2-pyridinecarboxylic acid hydrobromide and 500 ml of ethanol saturated with hydrochloric acid. The mixture was heated to reflux overnight, cooled and concentrated under vacuum to 1/3 of its original volume. After cooling the mixture to about 0° C., the resultant crystals were collected by vacuum filtration, washed with ethanol and diethyl ether, and dried under vacuum to afford 29.5 g of ethyl 4-hydroxy-2-pyridinecarboxylate hydrochloride.

reactant | 4-hydroxy-2-pyridinecarboxylic acid hydrobromide | 0.21 mol, 45.5 g | Br.OC1=CC(=NC=C1)C(=O)O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 4-hydroxy-2-pyridinecarboxylate hydrochloride | 29.5 g | Cl.OC1=CC(=NC=C1)C(=O)OCC | InChI=1S/C8H9NO3.ClH/c1-2-12-8(11)7-5-6(10)3-4-9-7;/h3-5H,2H2,1H3,(H,9,10);1H
